US04906621
To a solution of 5.7 g of 4-(diethylphosphonomethyl)quinoline in 100 ml of methylene chloride at room temperature is added 3.2 g of m-chloroperbenzoic acid. After reacting for 45 minutes, an additional 1.5 g portion of m-chloroperbenzoic acid is added, and the reaction mixture is stirred for one hour. The reaction mixture is washed with saturated potassium carbonate solution, dried over sodium sulfate and evaporated to dryness to give 4-(diethylphosphonomethyl)-quinoline-N-oxide.

reactant | 4-(diethylphosphonomethyl)quinoline | 5.7 g | C(C)OP(=O)(OCC)CC1=CC=NC2=CC=CC=C12 | C14H18NO3P
reactant | m-chloroperbenzoic acid | 3.2 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 4-(diethylphosphonomethyl)-quinoline-N-oxide | C(C)OP(=O)(OCC)CC1=CC=[N+](C2=CC=CC=C12)[O-] | C14H18NO4P
